US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-5-hydroxy-4-oxazol-4-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid.
A mixture of 2-{3-[3-(4-acetyl-5-benzyloxy-2-ethylphenoxy)propoxy]-2-propyl-phenoxy}benzoic acid methyl ester (5.31 g, 8.89 mmol) and water (10 mL) in acetonitrile (50 mL) was treated with trifluoroacetic acid (1.4 mL), 18 mmol) and [bis(trifluoroacetoxy)iodo]benzene (7.65 g, 17.8 mmol). The resulting mixture was heated at reflux for 4 h then concentrated in vacuo. The residue was dissolved in methylene chloride and washed once with water. The aqueous layer was extracted twice with fresh portions of methylene chloride. The combined organic layers were washed three times with saturated sodium bicarbonate solution, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 20% ethyl acetate/80% hexane) of the residue provided 1.68 g (31%) of the title compound as a brown oil. 1H NMR (CDCl3) δ 7.92 (s, 1H), 7.88 (d, J=9 Hz, 1H), 7.40 (m, 6H), 7.12 (d, J=9 Hz, 1H), 7.05 (d, J=9 Hz, 1H), 6.79 (d, J=8 Hz, 1H), 6.66 (d, J=8 Hz, 1H), 6.50 (s, 1H), 6.43 (d, J=8 Hz, 1H), 5.15 (s, 2H), 4.65 (s, 2H), 4.22 (m. 4H), 3.83 (s, 3H), 2.65 (m, 4H), 2.34 (quintet, J=6 Hz, 2H), 1.55 (hextet, J=7 Hz, 2H), 1.17 (t, J=8 Hz, 3H), 0.89 (t, J=8 Hz, 3H); TOS MS ES+ exact mass calculated for C37H41O8 (p+1): m/z=613.2801. Found: 613.2833.

reactant | 2-{3-[3-(4-acetyl-5-benzyloxy-2-ethylphenoxy)propoxy]-2-propyl-phenoxy}benzoic acid methyl ester | 8.89 mmol, 5.31 g | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)=O)CC)CCC)=O | C37H40O7
reactant | water | 10 mL | O | H2O
reactant | trifluoroacetic acid | 1.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [bis(trifluoroacetoxy)iodo]benzene | 17.8 mmol, 7.65 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-{3-[3-(2-Ethyl-5-hydroxy-4-oxazol-4-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid | 1.68 g, 31% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1N=COC1)O | C30H31NO7
